US08912188B2
To a solution of (S)-methyl 3-(2-methylpiperidin-1-yl)-2-(trifluoromethylsulfonyloxy)quinoxaline-6-carboxylate (250 mg, crude) in dioxane (5 mL) was added Pd(PPh3)4 (33 mg, 0.03 mmol), 1H-indol-5-ylboronic acid (234 mg, 1.45 mmol), K3PO4 (367 mg, 1.74 mmol) and water (5 drops). The resulting solution was stirred for 1 h at 90° C. with an inert atmosphere of nitrogen and then concentrated in vacuo to give a residue, which was purified by silica gel column chromatography eluting with 1%-10% ethyl acetate in petroleum ether to afford (S)-methyl 2-(1H-indol-5-yl)-3-(2-methylpiperidin-1-yl)quinoxaline-6-carboxylate as a yellow solid (79 mg).

reactant | (S)-methyl 3-(2-methylpiperidin-1-yl)-2-(trifluoromethylsulfonyloxy)quinoxaline-6-carboxylate | 250 mg | C[C@@H]1N(CCCC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)OS(=O)(=O)C(F)(F)F | C17H18F3N3O5S
reactant | 1H-indol-5-ylboronic acid | 1.45 mmol, 234 mg | N1C=CC2=CC(=CC=C12)B(O)O | C8H8BNO2
reactant | K3PO4 | 1.74 mmol, 367 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | water | 5 drops | O | H2O
catalyst | Pd(PPh3)4 | 0.03 mmol, 33 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-methyl 2-(1H-indol-5-yl)-3-(2-methylpiperidin-1-yl)quinoxaline-6-carboxylate | 79 mg | N1C=CC2=CC(=CC=C12)C1=NC2=CC=C(C=C2N=C1N1[C@H](CCCC1)C)C(=O)OC | C24H24N4O2
